US06498169B1
Synthesis of 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone Ethylene Ketal
4-Piperidone ethylene ketal (12.0 g) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (12.3 g) was condensed in the same manner as described in Example 2 to give the title compound.

reactant | 4-Piperidone ethylene ketal | 12.0 g | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 12.3 g | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone Ethylene Ketal | C1COC2(CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)O1 | C22H28N2O5
